US05858995
To a suspension of 5,7-bis(benzoylamino)-dimethylbenzo[b]furan (2.5 g) in ethanol (18 ml) was added conc. hydrochloric acid (9 ml) and the mixture was refluxed for 36 hours. The reaction mixture was cooled and evaporated in vacuo. The residue was dissolved in water and the solution was washed with ethyl acetate. The aqueous layer was neutralized with aqueous saturated sodium bicarbonate and the separated oil was extracted with ethyl acetate. The extract was washed with brine, dried over sodium sulfate and evaporated in vacuo to give 5,7-diamino-2,3-dimethylbenzo[b]furan.

reactant | 5,7-bis(benzoylamino)-dimethylbenzo[b]furan | 2.5 g | C(C1=CC=CC=C1)(=O)NC1=CC2=C(OC(=C2C)C)C(=C1)NC(C1=CC=CC=C1)=O | C24H20N2O3
reactant | hydrochloric acid | 9 ml | Cl | ClH
solvent | ethanol | 18 ml | C(C)O | C2H6O
product | 5,7-diamino-2,3-dimethylbenzo[b]furan | NC1=CC2=C(OC(=C2C)C)C(=C1)N | C10H12N2O
